US03931151
A mixture of 27.3 g of 2-ethylthio-5-methyl-11-ethoxycarbonylmethylene-10,11-dihydro [5H] dibenzo (b,f) azepine in 750 ml of ethanol was stirred until complete dissolution occured and then 120 g of potassium hydroxide were added. The mixture was held at room temperature for 30 minutes and then was poured into a mixture of 2 kg of ice and 270 ml of hydrochloric acid. The mixture was stirred for 30 minutes and was extracted with methylene chloride. The organic phase was washed with water, dried over magnesium sulfate and distilled to dryness under reduced pressure. The 23 g of product were dissolved in 200 ml of refluxing ethyl acetate and the solution was filtered and was slightly concentrated. Crystallization was induced and the mixture was iced for 30 minutes and then vacuum filtered. The recovered precipitate was washed with ethyl acetate and dried under reduced pressure to obtain 19.64 g of 2-ethylthio-5-methyl-11 -carboxymethyl [5H] dibenzo (b,f) azepine which was used as is for the next step. For analysis, the product was crystallized from ethyl acetate and was a yellow crystalline solid melting at 164°C.

reactant | 2-ethylthio-5-methyl-11-ethoxycarbonylmethylene-10,11-dihydro [5H] dibenzo (b,f) azepine | 27.3 g | C(C)SC1=CC2=C(N(C3=C(CC2=CC(=O)OCC)C=CC=C3)C)C=C1 | C21H23NO2S
reactant | potassium hydroxide | 120 g | [OH-].[K+]
reactant | hydrochloric acid | 270 ml | Cl | ClH
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | 2-ethylthio-5-methyl-11 -carboxymethyl [5H] dibenzo (b,f) azepine | 19.64 g | C(C)SC1=CC2=C(N(C3=C(C=C2CC(=O)O)C=CC=C3)C)C=C1 | C19H19NO2S
